US08445674B2
D) 3-[(3-Chloro-4-trifluoromethoxy-phenyl)-(2-oxo-ethyl)-amino]-propionic acid tert-butyl ester
To a solution of 0.55 ml (6.3 mmol) of oxalyl chloride in 21 ml CH2Cl2 at −50 to −60° C. was added a solution of 0.93 ml (13.1 mmol) dimethylsulfoxide in 7 ml of CH2Cl2 within 20 min. The solution was stirred for 5 min, then a solution of 2.10 g (5.5 mmol) of 3-[(3-chloro-4-trifluoromethoxy-phenyl)-(2-hydroxy-ethyl)-amino]-propionic acid tert-butyl ester in 14 ml CH2Cl2 was added within 20 min. The mixture was stirred for 15 min and 3.81 ml (27.4 mmol) of triethylamine were added within 20 min. The suspension was stirred for 3 h and slowly warmed to −5° C. The reaction was neutralized with cold aqueous 10% KH2PO4 (adjusted with solid KH2PO4 to pH 4-5) and extracted with EtOAc (3×). The organic phases were washed with aqueous saturated NaHCO3 (freshly prepared), aqueous 10% NaCl, dried over Na2SO4 evaporated to yield 2.21 g (quantitative) of the title compound as yellow oil. MS: 381 (M+, Cl).

reactant | oxalyl chloride | 6.3 mmol, 0.55 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 13.1 mmol, 0.93 ml | CS(=O)C | C2H6OS
reactant | 3-[(3-chloro-4-trifluoromethoxy-phenyl)-(2-hydroxy-ethyl)-amino]-propionic acid tert-butyl ester | 5.5 mmol, 2.10 g | C(C)(C)(C)OC(CCN(CCO)C1=CC(=C(C=C1)OC(F)(F)F)Cl)=O | C16H21ClF3NO4
reactant | triethylamine | 27.4 mmol, 3.81 ml | C(C)N(CC)CC | C6H15N
reactant | KH2PO4 | pH 4-5 | OP(=O)(O)[O-].[K+]
solvent | CH2Cl2 | 21 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
product | 3-[(3-Chloro-4-trifluoromethoxy-phenyl)-(2-oxo-ethyl)-amino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN(CC=O)C1=CC(=C(C=C1)OC(F)(F)F)Cl)=O | C16H19ClF3NO4
